Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Seizure-like activity
 
Major Surgical or Invasive Procedure:
EEG
Lumbar Puncture

 
History of Present Illness:
___ is a ___ with history of polysubstance abuse 
(benzodiazepines, barbituates and amphetamines per ___ EMS) 
who was BIBA for concern for status epilepticus. The patient was 
reportedly using drugs with his friend in the ___ when he 
started to seizure like activity (bilateral ___ shaking and no UE 
movements). It was difficult to extract him from the field and 
it took about 20 minutes to get him to the ED with ongoing 
movements. On arrival to the ED he was noted to have bilateral 
___ shaking with rhythmic turning of one foot. He did not respond 
to painful stimuli and did not blink to confrontation. No 
incontinence in the ED. FSBG was normal. He was give 2 mg IV 
Lorazepam x3 with cessation of the movements and he was able to 
answer a few yes/no questions although was very somnolent. He 
had a temp to 100.1 so underwent a CT head followed by LP and 
was started on vancomycin to cover for potential blood stream 
infection in the setting of IVDU. Neurology was consulted and 
thought given the unclear etiology of the rhythmic body 
movements, it would be reasonable to start continuous EEG. Urine 
was positive for opiates, cocaine, and amphetamines. Stox 
negative. LP was unremarkable. Lactate 4.4. CBC and chem WNL. In 
ED initial VS: 100.8 120 114/85 24 100% RA. Patient was given: 
lorazepam 2 mg x3, vancomycin 1000 mg. Imaging notable for: CT 
head: No acute intracranial abnormalities (prelim). CXR: No 
acute cardiopulmonary  abnormality (prelim). VS prior to 
transfer: 97.8 94 113/59 21 100% Nasal Cannula. On arrival to 
the MICU, he is unable to give history secondary to somnolence. 

 
Past Medical History:
Polysubstance Abuse
HIV
Asthma
 
Social History:
___
Family History:
None reported
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
VITALS: 97.4 101 113/72 20 96% RA
GENERAL: awake, alert, NAD  
HEENT: sclera anicteric, MMM, oropharynx clear  
NECK: supple
LUNGS: wheezing in all lung fields, no rhonchi
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema   
NEURO: A+O X 3, asking to leave

 
Pertinent Results:
LABS DURING HOSPITALIZATION:
___ 02:15AM   GLUCOSE-102* UREA N-17 CREAT-1.1 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-98 TOTAL CO2-22 ANION GAP-22*
___ 02:15AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:15AM   WBC-9.5 RBC-5.08 HGB-15.7 HCT-48.0 MCV-95 
MCH-30.9 MCHC-32.7 RDW-13.3 RDWSD-46.5*
___ 02:15AM   NEUTS-50.2 ___ MONOS-12.7 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-4.74 AbsLymp-3.22 AbsMono-1.20* 
AbsEos-0.22 AbsBaso-0.05
___ 02:10AM URINE  HOURS-RANDOM
___ 02:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-POS* amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 02:10AM URINE  COLOR-ORANGE* APPEAR-Clear SP ___
___ 02:10AM URINE  RBC-3* WBC-13* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 02:10AM URINE  HYALINE-4*
___ 02:10AM URINE  MUCOUS-MOD*
___ 02:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-2* PH-5.5 LEUK-SM 

___ 05:00AM CEREBROSPINAL FLUID (CSF)  TNC-0 RBC-10* 
POLYS-4 ___ ___ 05:00AM CEREBROSPINAL FLUID (CSF)  TNC-1 RBC-1041* 
POLYS-10 ___ ___ 05:00AM CEREBROSPINAL FLUID (CSF)  PROTEIN-29 
GLUCOSE-73
___ 02:24AM   LACTATE-4.4*
___ 02:15AM   GLUCOSE-102* UREA N-17 CREAT-1.1 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-98 TOTAL CO2-22 ANION GAP-22*
 
Brief Hospital Course:
___ is a ___ with history of polysubstance abuse who 
was brought in by ambulance from the field due to concern for 
status epilepticus. The patient was reportedly using drugs with 
his friend when he started to display seizure like activity. Per 
report, this activity improved with Lorazepam, though he 
remained altered initially. On the morning after admission, his 
mental status improved and he requested to leave against medical 
advice. CT of the Head was within normal limits on admission and 
Lumbar Puncture was not consistent w/ meningitis but CSF, blood 
and urine cultures were pending at discharge. He was monitored 
on EEG but this was discontinued before completion due to the 
fact that he requested to leave AMA. Patient refused social work 
or other addiction support services.

TRANSITIONAL ISSUES:
- Follow-up CSF, blood cultures and EEG read
- Patient is usually on Stribild but not taking at present
- Patient would benefit from addiction services
- Patient was offered social work but declined, please continue 
to offer addiction support
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze 
3. beclomethasone dipropionate Dose is Unknown Unknown 
inhalation DAILY 

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour Use 1 patch daily Disp #*14 Patch 
Refills:*0 
2.  beclomethasone dipropionate 40 mcg inhalation DAILY  
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheeze  
4.  Stribild 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Seizure-like Episode
Secondary Diagnosis: Substance Use Disorder, HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
due to seizure-like activity. While your initial work-up was 
ongoing, you requested to leave against medical advice. We have 
reviewed the risks of leaving, including further seizures and 
uncontrolled infection, however you have decided to leave 
despite these risks.

Your ___ Team
 
Followup Instructions:
___